US06486346B1
The reaction of the anhydrous and catalyst-free solution of crude durene diamine with phosgene in conventional amounts (ca. 2 to 8 moles, preferably 3 to 6 moles of phosgene for each 1 mole of durene diamine) to form durene diisocyanate may be carried out by conventional cold-hot phosgenation. This means that a solution of phosgene in the organic solvent that was, for example, previously used is first added at a low temperature (from about 0 to 30° C.) to the phosgenation reactor, the durene diamine solution is mixed in, optionally while cooling. The resultant suspension is then heated to reflux and the reaction is completed under reflux, optionally with the addition of more phosgene.

reactant | durene diamine | C=1(C(N)N)C(C)=CC(C)=C(C)C1 | C10H16N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 3 to 6 moles | C(=O)(Cl)Cl | CCl2O
reactant | durene diamine | 1 mole | C=1(C(N)N)C(C)=CC(C)=C(C)C1 | C10H16N2
product | durene diisocyanate | [N-]=C=O.[N-]=C=O.C=1(C)C(C)=CC(C)=C(C)C1 | InChI=1S/C10H14.2CNO/c1-7-5-9(3)10(4)6-8(7)2;2*2-1-3/h5-6H,1-4H3;;/q;2*-1
